US08791134B2
3-Nitrosotetrahydrothiophen-3-yl acetate was prepared from tetrahydrothiophen-3-one oxime and lead tetraacetate using conditions of General Method 2. 1H NMR (400 MHz, chloroform-d) δ 3.69 (1H, d, 13.2 Hz), 3.11 (1H, d, 13.2 Hz), 2.99-3.05 (2H, m), 2.50-2.61 (1H, m), 2.22-2.29(1H, m), 2.22 (3H, s).

reactant | tetrahydrothiophen-3-one oxime | S1CC(CC1)=NO | C4H7NOS
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
product | 3-Nitrosotetrahydrothiophen-3-yl acetate | C(C)(=O)OC1(CSCC1)N=O | C6H9NO3S
